US08242145B2
Step 2: {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid
{3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid ethyl ester (0.06 g, 0.13 mmol) in MeOH and H2O was treated with lithium hydroxide, and the reaction was stirred at 60° C. for 30 minutes to give the title compound.

reactant | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid ethyl ester | 0.13 mmol, 0.06 g | C(C)OC(CC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C20H19BrClNO5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid | BrC1=CC(=C(OC=2C=C(C=C(C2)Cl)CC(=O)O)C=C1)CN1C(OCC1)=O | C18H15BrClNO5
